US08629271B2
a) 2-(3-(Bromomethyl)phenyl)ethanol
Borane dimethylsulphide complex (2M solution in THF, 5.78 mL) was added dropwise to a solution of 2-(3-(bromomethyl)phenyl)acetic acid (1.06 g) in THF (10 mL) at 0° C. and the resulting mixture stirred for 10 min. The reaction was then allowed to warm to room temperature and stirred overnight. Methanol (5 mL) was then added and the mixture concentrated in vacuo. Purification was by silica gel chromatography eluting with isohexane to diethyl ether gradient to give the subtitled compound as a white solid. Yield 1 g.

reactant | Borane dimethylsulphide | 2M, 5.78 mL | CSC.B
reactant | 2-(3-(bromomethyl)phenyl)acetic acid | 1.06 g | BrCC=1C=C(C=CC1)CC(=O)O | C9H9BrO2
reactant | Methanol | 5 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(3-(Bromomethyl)phenyl)ethanol | BrCC=1C=C(C=CC1)CCO | C9H11BrO
